US04055572
19.8 g (0.2 mole) of 1-isopropyl-1-cyanohydrazine is added dropwise to a solution of 8.0 g (0.2 mole) of sodium hydroxide and 12.4 g (0.2 mole) of ethyl mercaptan in 150 ml of water, whereby a slightly exothermic reaction occurs. An addition is then made dropwise, at 20° to 25° C, of 21.7 g (0.2 mole) of chloroformic acid ethyl ester, and the reaction mixture is subsequently refluxed for 11/2 hours. On cooling of the reaction mixture to room temperature, there is precipitated an oil. The reaction mixture is extracted twice with 150 ml of chloroform each time; the extract is dried over sodium sulphate and the solvent is evaporated off in vacuo. The white crystalline residue is dissolved in 75 ml of methanol, the solution is treated with animal charcoal and crystallisation is effected at -70° C. There is obtained in this manner 1-isopropyl-3-hydroxy-5-ethylthio-1,2,4-triazole, m.p. 109°-113° C.

reactant | 1-isopropyl-1-cyanohydrazine | 0.2 mole, 19.8 g | C(C)(C)N(N)C#N | C4H9N3
reactant | sodium hydroxide | 0.2 mole, 8.0 g | [OH-].[Na+]
reactant | ethyl mercaptan | 0.2 mole, 12.4 g | C(C)S | C2H6S
reactant | chloroformic acid ethyl ester | 0.2 mole, 21.7 g | C(C)OC(=O)Cl | C3H5ClO2
solvent | water | 150 ml | O | H2O
product | 1-isopropyl-3-hydroxy-5-ethylthio-1,2,4-triazole | C(C)(C)N1N=C(N=C1SCC)O | C7H13N3OS
